US06521754B2
N-[4-Methoxy-7-(1-oxo-1 λ4-thiomorpholin-4-yl)-benzothiazol-2-yl]-benzamide
To a solution of N-(4-methoxy-7-thiomorpholin-4-yl-benzothiazol-2-yl)-benzamide (80 mg, 0.21 mmol) in [1,4]dioxane (3 ml) was added sodium periodate (89 mg, 0.42 mmol) and the mixture stirred for 20 h at ambient temperature. To this mixture water (10 ml) and dichloromethane (10 ml) were added, the phases were separated and the aqueous layer extracted twice with dichloromethane. The combined organic extracts were dryed with Na2SO4 and the solvent evaporated. Recrystallization from hot THF afforded the title compound as white solid (21%), MS: m/e=402 (M+H+).

reactant | N-(4-methoxy-7-thiomorpholin-4-yl-benzothiazol-2-yl)-benzamide | 0.21 mmol, 80 mg | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=CC=C2)=O)N2CCSCC2 | C19H19N3O2S2
reactant | sodium periodate | 0.42 mmol, 89 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | [1,4]dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | N-[4-Methoxy-7-(1-oxo-1 λ4-thiomorpholin-4-yl)-benzothiazol-2-yl]-benzamide | 21% | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=CC=C2)=O)N2CCS(CC2)=O | C19H19N3O3S2
